US06245804B1
1.1 g of 5-(2,5-dimethylpyrrol-1-yl)-3-(1-propenyl)-phthalide, 8.56 g of hydroxylamine-hydrochloride and 4.58 g of potassium hydroxide in 75 ml of ethanol/water (16:6,8, vv) are heated for 24 hours at 120° C. The solvent is distilled off, the residue is mixed with water and extracted with ethyl acetate. The ethyl acetate phase is dried (Na2SO4) and concentrated by evaporation and chromatographed on silica gel. 640 mg of 5-amino-3-(1-propenyl)-phthalide, melting point 125-130° C., is obtained with dichloromethane/methanol (99:1).

reactant | 5-(2,5-dimethylpyrrol-1-yl)-3-(1-propenyl)-phthalide | 1.1 g | CC=1N(C(=CC1)C)C=1C=C2C(OC(=O)C2=CC1)C=CC | C17H17NO2
reactant | hydroxylamine-hydrochloride | 8.56 g | Cl.NO
reactant | potassium hydroxide | 4.58 g | [OH-].[K+]
solvent | ethanol water | 75 ml | C(C)O.O
product | 5-amino-3-(1-propenyl)-phthalide | 640 mg | NC=1C=C2C(OC(=O)C2=CC1)C=CC | C11H11NO2
